US07652022B2
N-(4-(4-Aminopyrimidin-6-yl-oxy)phenyl)N′-(4chloro-3-trifluoromethyl-phenyl)-urea
In a sealed tube under N2-atmosphere, N-(4-(4-chloropyrimidin-6-yl-oxy)-phenyl)-N′-(4-chloro-3-trifluoromethyl-phenyl)-urea (443 mg, 1.00 mmol) and 25% aqueous NH3 (2 ml) in ethanol (2 ml) is stirred for 22 h at 80° C. Then the reaction mixture is diluted with water and AcOEt, the aqueous layer separated off and extracted 3 times with AcOEt. The organic phases are washed with 3 portions of water and brine, dried (Na2SO4) and concentrated. Column chromatography (SiO2; CH2Cl2/MeOH 9:1) yields the title compound: m.p.: 197-198° C.; 1H-NMR (DMSO6): 9.20 (s, HN), 8.93 (s, HN), 8.12 (m, 1H), 8.08 (s, 1H), 7.63 (m, 2H), 7.51 (d, 2H), 7.08 (d, 2H), 6.82 (s, H2N), 5.67 (s, 1H).

reactant | N-(4-(4-chloropyrimidin-6-yl-oxy)-phenyl)-N′-(4-chloro-3-trifluoromethyl-phenyl)-urea | 1.00 mmol, 443 mg | ClC1=NC=NC(=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C18H11Cl2F3N4O2
reactant | NH3 | 2 ml | N | H3N
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | N-(4-(4-Aminopyrimidin-6-yl-oxy)phenyl)N′-(4chloro-3-trifluoromethyl-phenyl)-urea | NC1=NC=NC(=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C18H13ClF3N5O2
